US07612099B2
N-(2-{2-[(2-Hydroxy-5-oxo-3-phenyl-cyclopent-1-enyl)-pyridin-2-yl-methyl]-1H-indol-3-yl}-ethyl)-acetamide
Using general procedure C, 3-hydroxy-4-phenyl-cyclopent-2-enone (Lit. 17) was reacted with pyridine-2-carbaldehyde and N-[2-(1H-indol-3-yl)-ethyl]-acetamide to give the title compound as a white solid. MS: 466.3 ([M+H]+).

reactant | 3-hydroxy-4-phenyl-cyclopent-2-enone | OC1=CC(CC1C1=CC=CC=C1)=O | C11H10O2
reactant | pyridine-2-carbaldehyde | N1=C(C=CC=C1)C=O | C6H5NO
reactant | N-[2-(1H-indol-3-yl)-ethyl]-acetamide | N1C=C(C2=CC=CC=C12)CCNC(C)=O | C12H14N2O
product | N-(2-{2-[(2-Hydroxy-5-oxo-3-phenyl-cyclopent-1-enyl)-pyridin-2-yl-methyl]-1H-indol-3-yl}-ethyl)-acetamide | OC1=C(C(CC1C1=CC=CC=C1)=O)C(C=1NC2=CC=CC=C2C1CCNC(C)=O)C1=NC=CC=C1 | C29H27N3O3
